US07855216B2
1-Ethyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
A mixture of 3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (210 mg, 0.49 mmol), potassium carbonate (82 mg, 0.59 mmol) and ethyl iodide (44 μl, 0.54 mmol) in DMF was heated at 55° C. for 2 hours. The mixture was allowed to cool to ambient temperature then evaporated. The residue was partitioned between EtOAc (50 mL) and water (15 mL). The organic phase was separated, dried (Na2SO4), filtered and evaporated to give an oil. The oil was purified by flash column chromatography on silica (Si-PPC, pentane:EtOAc, gradient 100:0 to 40:60) to provide the title compound as a yellow solid (80 mg, 36%). LCMS (method B): RT=2.52 min, M+H+=454.

reactant | 3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.49 mmol, 210 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2N1)NC1=C(C=C(C=C1)I)F | C16H13FIN3O2
reactant | potassium carbonate | 0.59 mmol, 82 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.54 mmol, 44 μl | C(C)I | C2H5I
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Ethyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 80 mg, 36% | C(C)OC(=O)C1=C(C=2C=NC=CC2N1CC)NC1=C(C=C(C=C1)I)F | C18H17FIN3O2
